US06242443B1
6-Chloro-3-(1,2-dimethylpropyl)amino-4H-1,2,4-benzothiadiazine 1,1-dioxide
Phosphorus pentoxide (7.55 g, 53.2 mmol), N,N-dimethylcyclohexylamine (17 ml, 113 mmol) and 1,2-dimethylpropylamine hydrochloride (12.4 g, 100.4 mmol) were carefully mixed and heated with mechanical stirring on an oil bath at 190-200° C. for about 15 min. To the homogeneous mass was added 6-chloro-3,4-dihydro-3-oxo-1,2,4-benzothiadiazine 1,1-dioxide (5.84 g, 25.1 mmol) and the mixture was stirred at 235° C. for 2 h. After cooling to about 100° C., water (200 ml) was added and the dark mixture was hydrolysed by stirring over night at room temperature. The precipitate was isolated by filtration and recrystallised from ethanol with decolorising charcoal to give 2,83 g (37%) of the pure title compound; m.p. (DSC) 264.7° C.; 1H-NMR (DMSO-d6): δ 0.90 (dd, 6H, CH(CH3)2), 1.09 (d, 3H, NCHCH3), 1.76 (m, 1H, CH(CH3)2), 3.70 (m, 1H, NHCH), 7.15 (br., 1H, NH), 7.28 (m, 2H, ArH), 7.68 (d, 1H, ArH), 10.3 (br.s, 1H, NH); (C12H16N3Cl1O2S1) calc. C, 47.76; H, 5.34; N 13.92; found C, 47.66; H, 5.47; N, 13.91.

reactant | Phosphorus pentoxide | 53.2 mmol, 7.55 g | O=P12OP3(=O)OP(=O)(O1)OP(=O)(O2)O3 | O10P4
reactant | N,N-dimethylcyclohexylamine | 113 mmol, 17 ml | CN(C)C1CCCCC1 | C8H17N
reactant | 1,2-dimethylpropylamine hydrochloride | 100.4 mmol, 12.4 g | Cl.CC(C(C)C)N
reactant | 6-chloro-3,4-dihydro-3-oxo-1,2,4-benzothiadiazine 1,1-dioxide | 25.1 mmol, 5.84 g | ClC=1C=CC2=C(NC(NS2(=O)=O)=O)C1 | C7H5ClN2O3S
solvent | water | 200 ml | O | H2O
product | 6-Chloro-3-(1,2-dimethylpropyl)amino-4H-1,2,4-benzothiadiazine 1,1-dioxide | 2,83 g, 37% | ClC=1C=CC2=C(NC(=NS2(=O)=O)NC(C(C)C)C)C1 | C12H16ClN3O2S
